US04431637
N,N',N"-Tris[4-[(4-O-α-D-glucopyranosyl-β -D-glucopyranosyl)oxy]phenyl]-1,3,5-benzenetrisulfonamide
A suspension of 800 mg of N,N',N"-tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]oxy]phenyl]-1,3,5-benzenetrisulfonamide in 15 ml of methanol was cooled in an ice-water bath, then ammonia was bubbled in, with stirring for one hour. The cooling bath was removed and stirring was continued for 4 days. The solvents were evaporated and the residue was heated in vacuo at 110° C. for 2 hours. This residue was crystallized from a mixture of methanol and ethanol, giving 280 mg of the desired intermediate as a white powder, mp 206°-210° C.

reactant | N,N',N"-tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]oxy]phenyl]-1,3,5-benzenetrisulfonamide | 800 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O | C102H123N3O60S3
solvent | methanol | 15 ml | CO | CH4O
product | N,N',N"-Tris[4-[(4-O-α-D-glucopyranosyl-β -D-glucopyranosyl)oxy]phenyl]-1,3,5-benzenetrisulfonamide | 280 mg | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)S(=O)(=O)NC1=CC=C(C=C1)O[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)O)O | C60H81N3O39S3
